US03954438
6-Dimethylamino-1-ethyl-2-methyl-7-nitro-5-trifluoromethylbenzimidazole
A glass reaction tube was charged with 5.0g. (0.016 mole) of 6-chloro-1-ethyl-2-methyl-7-nitro-5-trifluoromethylbenzimidazole, 20 ml. of dimethoxyethane and 15 ml. of dimethylamine and then sealed. The sealed tube was maintained at 125°C. for 16 days and then opened. The contents were evaporated to dryness and the residue extracted with hot hexane, from which crystallized 3.1g. of the desired product m.p. 111°-115°C. after recrystallization from hexane.

reactant | 6-chloro-1-ethyl-2-methyl-7-nitro-5-trifluoromethylbenzimidazole | 0.016 mole | ClC=1C(=CC2=C(N(C(=N2)C)CC)C1[N+](=O)[O-])C(F)(F)F | C11H9ClF3N3O2
reactant | dimethylamine | CNC | C2H7N
solvent | dimethoxyethane | C(OC)COC | C4H10O2
product | 6-Dimethylamino-1-ethyl-2-methyl-7-nitro-5-trifluoromethylbenzimidazole | CN(C=1C(=CC2=C(N(C(=N2)C)CC)C1[N+](=O)[O-])C(F)(F)F)C | C13H15F3N4O2
